US06642389B2
f] 4-{3-[2-(4-Methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalene-1-carbaldehyde
g of the above prepared 3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propan-1ol (4.04 mmol) was dissolved in 21 ml of toluene and treated successively at 0° C. with 0.696 g of 4-hydroxy-naphthalene-1-carbaldehyde (4.04 mmol), 1.061 g of triphenylphosphine (4.04 mmol), and 0.818 g (4.04 mmol) of DIAD. The cooling bath was then removed and stirring continued for 3 h. Pouring onto crashed ice, twofold extraction with AcOEt, washing with 3N NaOH and water, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (silica gel, hexane/AcOEt=7/3) left finally 1.084 g of the title compound as light yellow gum.

reactant | 3-[2-(4-methoxy-phenyl)-5-methyl-oxazol-4-yl]-propan-1ol | 4.04 mmol | COC1=CC=C(C=C1)C=1OC(=C(N1)CCCO)C | C14H17NO3
reactant | 4-hydroxy-naphthalene-1-carbaldehyde | 4.04 mmol, 0.696 g | OC1=CC=C(C2=CC=CC=C12)C=O | C11H8O2
reactant | triphenylphosphine | 4.04 mmol, 1.061 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 4.04 mmol, 0.818 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 21 ml | C1(=CC=CC=C1)C | C7H8
product | 4-{3-[2-(4-Methoxy-phenyl)-5-methyl-oxazol-4-yl]-propoxy}-naphthalene-1-carbaldehyde | COC1=CC=C(C=C1)C=1OC(=C(N1)CCCOC1=CC=C(C2=CC=CC=C12)C=O)C | C25H23NO4
